US07109229B2
(a) 3-(4-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
A 1.0 M solution of KOtBu in THF (10.6 mL, 10.6 mmol) was added to a solution of 2-(4-fluoro-1H-indol-3-yl)-acetamide (595 mg, 3.10 mmol) and (1-methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (646 mg, 2.98 mmol) in DMF (40 mL). The initially light yellow solution turned red-orange over 4 h and was then stirred 4 h at 60–70° C. The heating bath was removed, 1N HCl added and the mixture poured into EtOAc. The EtOAc layer was separated and washed with water (2×), saturated aq NaHCO3 (2×) and brine (3×), dried (MgSO4), filtered and concentrated onto SiO2. Flash chromatography (1:1 EtOAc:hexanes) afforded a red glass that was dried at 70° C. overnight giving the title compound (585 mg, 55%) as a bright red solid. 1H NMR (400 MHz, DMSO-6) 11.83 (br s, 1H), 11.21 (s, 1H), 7.53 (dd, J=7, 1 Hz, 1H), 7.40 (d, J=3 Hz, 1H), 7.25 (d, J=3 Hz, 1H), 7.21 (d, J=8 Hz, 1H), 7.0–7.08 (m, 1H), 7.86–7.04 (m, 2H), 6.65 (dd, J=11, 8 Hz, 1H), 6.44 (d, J=3 Hz, 1H), 3.71 (s, 3H). IR (CHCl3, cm−1) 1726. MS (electrospray, m/z) 360 (M++1), 358 (M−−1).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 10.6 mmol, 10.6 mL | C1CCOC1 | C4H8O
reactant | 2-(4-fluoro-1H-indol-3-yl)-acetamide | 3.10 mmol, 595 mg | FC1=C2C(=CNC2=CC=C1)CC(=O)N | C10H9FN2O
reactant | (1-methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 2.98 mmol, 646 mg | COC(C(=O)C=1C=CC=C2C=CN(C12)C)=O | C12H11NO3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(4-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 585 mg, 55% | FC1=C2C(=CNC2=CC=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C21H14FN3O2
